US07183287B2
Preparation of (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[aminocarbonyl]methyl}benzamide
The title compound was prepared by a procedure similar to the one described for (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-(2-hydroxyethyl)-4-methylbenzamide using glycine amide HCl (1.2 g, 10.95 mmol) as the amine and with an addition of a second equivalent of N-methylmorpholine. After reverse phase HPLC purification, the organic extracts were concentrated under reduced pressure and dried in vacuo to afford the desired product (1.79 g, 52%) as white solid. 1H-NMR (CD3OD, 400 MHz) δ 7.97 (dd, 1H, J=1.6 Hz), 7.73 (d, 1H, J=1.6 Hz), 7.62 (m, 1H), 7.53 (d, 1H, J=8 Hz), 7.01 (m, 2H), 5.59 (q, 2H, J=12.4 Hz), 4.01 (d, 2H, J=1.6 Hz), 2.18 (s, 3H), 2.13 (s, 3H); ES-HRMS m/z 477.1128 (M+H C22H20ClF2N4O4 requires 477.1136).

reactant | (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-(2-hydroxyethyl)-4-methylbenzamide | ClC1=C(N=C(N(C1=O)C=1C=C(C(=O)NCCO)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C22H20ClF2N3O4
reactant | glycine amide HCl | 10.95 mmol, 1.2 g | Cl.NCC(=O)N
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
product | (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[aminocarbonyl]methyl}benzamide | 1.79 g, 52% | ClC1=C(N=C(N(C1=O)C=1C=C(C(=O)NCC(=O)N)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C22H19ClF2N4O4
